US03966736
In the manner given in Example 25, to 2,9-dihydro-9-[(pyrrolidino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepin-3-one in dimethylformamide is added a solution of sodium hydride in mineral oil. The mixture is allowed to react at about 95° C. for 40 minutes and after cooling (2-pyrrolidinoethyl)chloride in xylene is added. The mixture is kept at 95°-100° C. for a period of 22 hours, evaporated and worked up as in example 25 to give 2,9-dihydro-2-(2-pyrrolidinoethyl)-9-(pyrrolidinoacetyl)-3H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepin-3-one.

reactant | 2,9-dihydro-9-[(pyrrolidino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepin-3-one | N1(CCCC1)CC(=O)N1C2=C(C=3N(C4=C1C=CC=C4)C(NN3)=O)C=CC=N2 | C19H18N6O2
reactant | sodium hydride | [H-].[Na+]
reactant | (2-pyrrolidinoethyl)chloride | N1(CCCC1)CCCl | C6H12ClN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,9-dihydro-2-(2-pyrrolidinoethyl)-9-(pyrrolidinoacetyl)-3H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepin-3-one | N1(CCCC1)CCN1N=C2N(C3=C(N(C4=C2C=CC=N4)C(CN4CCCC4)=O)C=CC=C3)C1=O | C25H29N7O2
